US09079909B2
To a cooled (cooling bath −10° C.) stirred suspension of sodium nitrite (82 mg, 1.2 mmol) in conc. HCl (2.6 mL) was added a solution of 3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-amine (129 mg, 0.33 mmol) in trifluoroacetic acid (0.5 ml) and the reaction mixture was allowed to warm to ambient temperature over 2 h. Water and CH2Cl2 were added. The aqueous phase was extracted with CH2Cl2 (×3) and the organic phases combined, dried over MgSO4, filtered and evaporated. The crude material was purified by preparative HPLC to give 3-(4-fluorophenyl)-1-(2 -morpholinoethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-4-ol as a solid (27.8 mg) which was used as such in the subsequent step.

reactant | sodium nitrite | 1.2 mmol, 82 mg | N(=O)[O-].[Na+]
reactant | 3-(4-fluorophenyl)-1-(2-morpholinoethyl)-4-(phenylethynyl)-1H-pyrazol-5-amine | 0.33 mmol, 129 mg | FC1=CC=C(C=C1)C1=NN(C(=C1C#CC1=CC=CC=C1)N)CCN1CCOCC1 | C23H23FN4O
reactant | Water | O | H2O
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | HCl | 2.6 mL | Cl | ClH
solvent | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(4-fluorophenyl)-1-(2 -morpholinoethyl)-5-phenyl-1H-pyrazolo[3,4-c]pyridazin-4-ol | 27.8 mg | FC1=CC=C(C=C1)C1=NN(C=2N=NC(=C(C21)O)C2=CC=CC=C2)CCN2CCOCC2 | C23H22FN5O2
